US06762180B1
(16) 4-isopropylamino-nitrobenzene
Prepared from 1-fluoro-4-nitrobenzene and isopropylamine

reactant | 1-fluoro-4-nitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | isopropylamine | C(C)(C)N | C3H9N
product | 4-isopropylamino-nitrobenzene | C(C)(C)NC1=CC=C(C=C1)[N+](=O)[O-] | C9H12N2O2
